US07884210B2
3-{2-[3-Cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazole-5-sulfonylamino}-propionic acid
The title compound was prepared via 3-{2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazole-5-sulfonylamino}-propionic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using 3,4-difluoroaniline, cyclopentanecarbaldehyde and 3-(2-amino-thiazole-5-sulfonylamino)-propionic acid ethyl ester the latter prepared in a similar manner as (S)-1-(2-amino-thiazole-5-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester.

reactant | 3-{2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazole-5-sulfonylamino}-propionic acid ethyl ester | C(C)OC(CCNS(=O)(=O)C1=CN=C(S1)NC(=O)N(C1=CC(=C(C=C1)F)F)CC1CCCC1)=O | C21H26F2N4O5S2
reactant | {2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC(=C(C=C1)F)F | C18H19F2N3O3S
reactant | 3,4-difluoroaniline | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | cyclopentanecarbaldehyde | C1(CCCC1)C=O | C6H10O
reactant | 3-(2-amino-thiazole-5-sulfonylamino)-propionic acid ethyl ester | C(C)OC(CCNS(=O)(=O)C1=CN=C(S1)N)=O | C8H13N3O4S2
reactant | (S)-1-(2-amino-thiazole-5-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(CCC1)S(=O)(=O)C1=CN=C(S1)N | C9H13N3O4S2
product | 3-{2-[3-Cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazole-5-sulfonylamino}-propionic acid | C1(CCCC1)CN(C(NC=1SC(=CN1)S(=O)(=O)NCCC(=O)O)=O)C1=CC(=C(C=C1)F)F | C19H22F2N4O5S2
